US07960369B2
2′,6′-dimethylbiphenyl-3-carbaldehyde
3-Bromobenzaldehyde (18.5 g, 100 mmol) and 2,6-dimethylphenylboronic acid (21.0 g, 140 mmol) were dissolved in a mixture of 1 M sodium carbonate aqueous solution (200 mL), ethanol (100 mL) and toluene (200 mL) and, after argon substitution, tetrakis(triphenylphosphine)palladium (0) (5.78 g, 5.00 mmol) was added. The reaction mixture was stirred under an argon atmosphere at 80° C. for 20 hrs. The reaction mixture was cooled, diluted with water and ethyl acetate, and the insoluble material was filtered through celite. The organic layer of the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-10% ethyl acetate/hexane) to give the title compound (20.4 g, yield 97%) as a colorless oil.

reactant | 3-Bromobenzaldehyde | 100 mmol, 18.5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 2,6-dimethylphenylboronic acid | 140 mmol, 21.0 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
solvent | sodium carbonate | 1 M, 200 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 5.00 mmol, 5.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,6′-dimethylbiphenyl-3-carbaldehyde | 20.4 g, yield 97% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)C=O | C15H14O
